US08541596B2
N,N-Bis((benzo[d]thiazol-2-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), (benzo[d]thiazol-2-yl)methylbromide (502 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.037 g (8.7%); 428.1 MS m/z: [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 5.22 (s, 4H); 6.96 (dd, 1H, 4J=2.4 Hz, 3J=8.9 Hz); 7.02 (br s, 1H); 7.38-7.43 (m, 3H); 7.47-7.51 (m, 2H); 7.96-7.98 (m, 2H); 8.02-8.03 (m, 3H); 12.35 (br s, 1H); HPLC (METHOD [A]): rt 14.45 min (92.1%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | (benzo[d]thiazol-2-yl)methylbromide | 2.2 mmol, 502 mg, 2.2 eq. | S1C(=NC2=C1C=CC=C2)CBr | C8H6BrNS
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis((benzo[d]thiazol-2-yl)methyl)-1H-benzo[d]imidazol-5-amine | S1C(=NC2=C1C=CC=C2)CN(C2=CC1=C(NC=N1)C=C2)CC=2SC1=C(N2)C=CC=C1 | C23H17N5S2
